US05602170
5,5'-Dihydroxymethyl-2,2'-bithiophene was also obtained by refluxing 2-hydroxy-methyl-5-iodo-thiophene with Cu powder in dimethyl formamide. The Ullmann condensation yielded a very poor amount of 5,5'-dihydroxymethyl-2,2'-bithiophene.

reactant | 2-hydroxy-methyl-5-iodo-thiophene | OC=1SC(=CC1C)I | C5H5IOS
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
product | 5,5'-dihydroxymethyl-2,2'-bithiophene | OCC1=CC=C(S1)C=1SC(=CC1)CO | C10H10O2S2
